US03993660
In the manner given in Example 5, 6-formamido-2'-chloro-2-[3-(phthalimidomethyl)-5-benzyl-4H-1,2,4-triazol-4-yl]benzophenone was heated in ethanol with hydrazine hydrate to give 1-benzyl-7-formamido-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 6-formamido-2'-chloro-2-[3-(phthalimidomethyl)-5-benzyl-4H-1,2,4-triazol-4-yl]benzophenone | C(=O)NC1=CC=CC(=C1C(=O)C1=C(C=CC=C1)Cl)N1C(=NN=C1CC1=CC=CC=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C32H22ClN5O4
reactant | hydrazine hydrate | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 1-benzyl-7-formamido-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | C(C1=CC=CC=C1)C1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C(=CC=C1)NC=O | C24H18ClN5O
